US08258119B2
3H-Thiopheno[2,3-d]1,2,3-triazin-4-one:
To an ice cold solution (0° C.) of 2-aminothiophene-3-carboxamide (5 g, 35.21 mmol) in concentrated sulfuric acid (40 mL) was added a cold (0° C.) solution of sodium nitrite (2.5 g, 35.21 mmol) in concentrated sulfuric acid (30 mL) for 30 min (while adding, the temperature should keep between −5-0° C.). After addition, the mixture was stirred at the same temperature (0° C.) for 3 h. The mixture was poured into crushed ice slowly with stirring for 15 min and stirred at the same temperature for 15 min. The solution was extracted with ethyl acetate (4×200 mL) and the combined EtOAc layer was washed with water, brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent. The residue was chromatographed over silica gel column using chloroform-methanol (95:5) as eluents to give the product as a pale red color solid (1.0 g, 18%), mp 175-176° C. 1H NMR (400 MHz, DMSO-d6): δ 15.18 (1H, s), 8.16 (1H, d, J=5.6 Hz), 7.64 (1H, d, J=5.6 Hz); 13C NMR (100 MHz, DMSO-d6): δ 159.1, 153.8, 132.0, 126.1, 121.2; LC-MS (negative ion mode): m/z 152 (M−H)−.

reactant | 2-aminothiophene-3-carboxamide | 35.21 mmol, 5 g | NC=1SC=CC1C(=O)N | C5H6N2OS
reactant | sodium nitrite | 35.21 mmol, 2.5 g | N(=O)[O-].[Na+]
solvent | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 3H-Thiopheno[2,3-d]1,2,3-triazin-4-one | 1.0 g, 18% | N1=NNC(C2=C1SC=C2)=O | C5H3N3OS
